US06127546
2.4 g (10 mmol) of 4-(N-tert-butyloxycarbonyl)amino-6-methyl-2-heptene-1-ol was added to a solution of 10 ml of 3N-HCl in ethyl acetate, and the mixture was stirred for 30 minutes. After adding 20 ml of H2O, the mixture was extracted with 30 ml of ethyl acetate. Then, a water layer was basified with potassium carbonate, extracted with 20 ml of methylene chloride twice, dried with MgSO4, filtered, and concentrated under reduced pressure, thereby obtaining 1.07 g (75% yield) of 4-amino-6-methyl-2-heptene-1-ol. Next, the product was added with 20 ml of methylene chloride, cooled to 0° C., and then added with 0.83 ml (7.17 mmol) of benzoyl chloride and 1.0 ml (7.17 mmol) of triethyl amine. After stirring for 1 hour, the mixture was added with 0.68 ml (7.17 mmol) of acetic anhydride and 0.58 ml (7.17 ml) of pyridine, and then further stirred for 24 hours. After the stirred solution was added with 20 ml of H2O, an organic layer was isolated, washed with 20 ml of 1N-HCl, 20 ml of a saturated aqueous solution of sodium carbonate, and then 20 ml of brine, filtered, and then concentrated under reduced pressure. The concentrate was purified by column chromatography (hexane:ethyl acetate=2:1), thereby obtaining 2.11 g (98%) of 4-(N-benzoyl)amino-6-methyl-1-acetoxy-2-heptene.

reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | benzoyl chloride | 7.17 mmol, 0.83 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethyl amine | 7.17 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 7.17 mmol, 0.68 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.58 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | 20 ml | O | H2O
product | 4-(N-benzoyl)amino-6-methyl-1-acetoxy-2-heptene | 2.11 g, 98% | C(C1=CC=CC=C1)(=O)NC(C=CCOC(C)=O)CC(C)C | C17H23NO3
